US07618985B2
6-Hydroxy-2H-isoquinolin-1-one (2 g, 12.41 mmol) and potassium carbonate (3.43 g, 2 mol) were mixed with N, N-dimethylformamide (40 ml) at 100° C. A solution of (R)-3- methanesulphonyloxypiperidine-1-carboxylic acid tert-butyl ester (5.2 g, 1.5 mol) in dimethylformamide (50 ml) was added dropwise over 15 minutes. The mixture was stirred at 100° C. for 3.5 hours and allowed to cool. The crude material was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with sodium hydroxide (2M) then brine and dried over magnesium sulphate. The residue was purified by flash chromatography on silica (eluent: 0-100% Heptane/Ethyl acetate followed by 5% 2M ammonia in methanol/ethyl acetate) to give (S)-3-(Oxo-1,2-dihydroisoquinolin-6-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (1.25g, 29%), El-MS: m/z=345.3 [M+H]+.

reactant | 6-Hydroxy-2H-isoquinolin-1-one | 12.41 mmol, 2 g | OC=1C=C2C=CNC(C2=CC1)=O | C9H7NO2
reactant | potassium carbonate | 2 mol, 3.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-3- methanesulphonyloxypiperidine-1-carboxylic acid tert-butyl ester | 1.5 mol, 5.2 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)OS(=O)(=O)C | C11H21NO5S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N, N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (S)-3-(Oxo-1,2-dihydroisoquinolin-6-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.25g, 29% | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC=1C=C2C=CNC(C2=CC1)=O | C19H24N2O4
